US07700633B2
E. 7-tert-Butoxycarbonylmethoxy-3-hydroxynaphthalene-2-carboxylic acid methyl ester
A mixture of 3,7-dihydroxynaphthalene-2-carboxylic acid methyl ester (3.32 g, 15.5 mmol), bromoacetic acid tert-butyl ester (2.29 mL, 15.5 mmol) and potassium carbonate (4.28 g, 31.0 mmol) in DMF (20 mL) is stirred at 60° C. for 18 h. The reaction mixture is poured to EtOAc, wash with water and brine. It is then dried with MgSO4 and concentrated to give the title compound.

reactant | 3,7-dihydroxynaphthalene-2-carboxylic acid methyl ester | 15.5 mmol, 3.32 g | COC(=O)C1=CC2=CC(=CC=C2C=C1O)O | C12H10O4
reactant | bromoacetic acid tert-butyl ester | 15.5 mmol, 2.29 mL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | potassium carbonate | 31.0 mmol, 4.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 7-tert-Butoxycarbonylmethoxy-3-hydroxynaphthalene-2-carboxylic acid methyl ester | COC(=O)C1=CC2=CC(=CC=C2C=C1O)OCC(=O)OC(C)(C)C | C18H20O6
